US07687666B2
Preparation of 5-Chloro-N-[(1S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoro-methyl)propyl]thiophene-2-sulfonamide
4-methyl morpholine (2.7 mL, 24.6 mmol) was added to a suspension of (2S)-2-amino-4,4,4-tri-fluoro-3-(trifluoromethyl)butan-1-ol (2 g, 8.1 mmol) in isopropyl acetate (10 mL). The mixture was stirred at about 20-25° C. for about 5-10 minutes and then 5-chlorothiophene-2-sulfonyl chloride (2.0 g, 9.2 mmol) was added. The reaction mixture was stirred at 20-25° C. for 6-18 hours. Water (10 mL) was then added to the reaction mixture, whereby the solids dissolved. The two layers were then separated and the organic layer was washed with a solution of 10% NaHCO3 (10 mL) and 10% NaCl (10 mL). Heptane (10 mL) was added to the isopropyl acetate layer (about 10 mL). The mixture was then distilled down to about half of its original volume under atmospheric distillation. While the solution remained at about 80-90° C., heptane (10 mL) was added over 5-10 minutes, during which time solids formed. After the addition of heptane, the mixture was cooled to 20-25° C., stirred for about 1-2 hours, and then further cooled to about 5-10° C. for 1 hour. The solid was then collected by filtration, washed with heptane (5 mL), and oven-dried to give 2.15 g (67%) of the product as an off-white solid. 98 area% HPLC purity and >99% chiral purity by HPLC.

reactant | 4-methyl morpholine | 24.6 mmol, 2.7 mL | CN1CCOCC1 | C5H11NO
reactant | (2S)-2-amino-4,4,4-tri-fluoro-3-(trifluoromethyl)butan-1-ol | 8.1 mmol, 2 g | N[C@H](CO)C(C(F)(F)F)C(F)(F)F | C5H7F6NO
reactant | 5-chlorothiophene-2-sulfonyl chloride | 9.2 mmol, 2.0 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | Water | 10 mL | O | H2O
solvent | isopropyl acetate | 10 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | heptane | CCCCCCC | C7H16
product | 5-Chloro-N-[(1S)-3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoro-methyl)propyl]thiophene-2-sulfonamide | 2.15 g, 67% | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](C(C(F)(F)F)C(F)(F)F)CO | C9H8ClF6NO3S2
